US05342823
A mixture of 19.7 g of 2-isopropylthionicotinic acid prepared according to Example 1 and 22 ml of thionyl chloride in 100 ml of absolute toluene is stirred for 3 hours at 80° C. When evolution of gas has ceased, the reaction mixture is filtered and the mother liquor is concentrated to dryness under vacuum. The residual crude product (20.8 g of 2-isopropylthionicotinyl chloride as a yellow oil) is dissolved in 70 ml of absolute toluene and treated slowly at a temperature of 20°-25° C. with a mixture of 8.8 g of oxetan-3-ol and 8.5 ml pyridine dissolved in 20 ml of toluene. After stirring for 12 hours at a temperature of 20°-25° C., 100 ml of ice-water and 200 ml of diethyl ether are added, the organic phase is separated, and the aqueous phase is extracted with 2×100 ml of diethyl ether. The combined organic phase is dried and concentrated to give 27.4 g of oxetan-3-yl 2-isopropylthionicotinate in the form of a pale yellow oil. Purification by distillation at a bath temperature of 145°-150° C., 4×10-2 bar) gives 19.7 g of an oil.

reactant | 2-isopropylthionicotinic acid | 19.7 g | C(C)(C)C1=C(C(=S)O)C=CC=N1 | C9H11NOS
reactant | thionyl chloride | 22 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | oxetan-3-yl 2-isopropylthionicotinate | 27.4 g | C(C)(C)C1=C(C(=S)OC2COC2)C=CC=N1 | C12H15NO2S
